US04407799
Synthesis of 2-(3,4,5-trimethoxyphenyl)-1,3-perhydrothiazine-4-one
A mixture of 19.6 g of 3,4,5-trimethoxybenzaldehyde, 10.6 g of 3-mercaptopropionic acid and 6 g of ammonium carbonate in 250 ml of benzene was refluxed for 5 hours at 80° C. in a flask provided with a Dean-Stark apparatus and the thus distilled water was removed. The crystals which separated out from the reaction mixture after reaction was over and on cooling the reaction mixture, were collected by filtration and recrystallized from benzene to give 21.8 g of colourless aciculates melting at 181° to 182° C. in a yield of 77%.

reactant | 3,4,5-trimethoxybenzaldehyde | 19.6 g | COC=1C=C(C=O)C=C(C1OC)OC | C10H12O4
reactant | 3-mercaptopropionic acid | 10.6 g | SCCC(=O)O | C3H6O2S
reactant | ammonium carbonate | 6 g | C([O-])([O-])=O.[NH4+].[NH4+]
solvent | benzene | 250 ml | C1=CC=CC=C1 | C6H6
product | 2-(3,4,5-trimethoxyphenyl)-1,3-perhydrothiazine-4-one | yield of 77% | COC1=CC(=CC(=C1OC)OC)C2NC(=O)CCS2 | C13H17NO4S
